US07834051B2
4-[(3S,4S,5S)-3-benzyl-4-hydroxy-5-methyl-2-oxopyrrolidin-1-yl]-2-chlorobenzonitrile
A solution of diisopropylamine (0.150 mL) in THF (8 mL) was cooled to −78° C., and n-butyllithium-hexane solution (0.648 mL, 1.6 mol/L) was added dropwise. After the completion of the dropwise addition, the mixture was stirred at −78° C. for 1 hr. Subsequently, a solution of 2-chloro-4-[(2S,3S)-3-hydroxy-2-methyl-5-oxopyrrolidin-1-yl]benzonitrile (100 mg) in THF (2.5 mL) was added dropwise, and the mixture was further stirred at −78° C. for 30 min. A solution of benzyl bromide (0.16 mL) in THF (1.5 mL) was added dropwise at −78° C., and the mixture was further stirred at −78° C. to −30° C. for 1 hr. Acetic acid (1.0 mL) was added to the reaction mixture, and the mixture was warmed to room temperature. Water was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=50/1→1/2) to give the title compound as a colorless solid (yield: 40.8 mg, 30.0%).

reactant | diisopropylamine | 0.150 mL | C(C)(C)NC(C)C | C6H15N
reactant | 2-chloro-4-[(2S,3S)-3-hydroxy-2-methyl-5-oxopyrrolidin-1-yl]benzonitrile | 100 mg | ClC1=C(C#N)C=CC(=C1)N1[C@H]([C@H](CC1=O)O)C | C12H11ClN2O2
reactant | benzyl bromide | 0.16 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 4-[(3S,4S,5S)-3-benzyl-4-hydroxy-5-methyl-2-oxopyrrolidin-1-yl]-2-chlorobenzonitrile | yield: 40.8 mg, 30.0% | C(C1=CC=CC=C1)[C@@H]1C(N([C@H]([C@H]1O)C)C1=CC(=C(C#N)C=C1)Cl)=O | C19H17ClN2O2
